US07932246B2
Ethyl 2-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-ylpyridine-5-carboxylate hydrochloride
To ethyl 2-[5-(tert-butoxycarbonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyridine-5-carboxylate (1.429 g, 3.92 mmol) was added 4M HCl in dioxane (10 ml, 40 mmol). The mixture was stirred for 2 h, then Et2O (50 ml) was added. The product was collected by filtration and washed with further Et2O (50 ml) to yield the title compound (1.19 g, quant.). 1H NMR (300 MHz, d6-DMSO) δ: 9.95 (1H, br s), 9.84 (1H, br s), 8.44 (1H, d, J=1.8 Hz), 8.20 (1H, dd, J=2.1, 9.3 Hz), 7.01 (1H, d, J=9.3 Hz), 4.31 (2H, q, J=7.2 Hz), 3.0-4.05 (10H, m), 1.31 (3H, t, J=7.2 Hz).

reactant | ethyl 2-[5-(tert-butoxycarbonyl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl]pyridine-5-carboxylate | 3.92 mmol, 1.429 g | C(C)(C)(C)OC(=O)N1CC2C(C1)CN(C2)C2=NC=C(C=C2)C(=O)OCC | C19H27N3O4
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 40 mmol, 10 ml | O1CCOCC1 | C4H8O2
solvent | Et2O | 50 ml | CCOCC | C4H10O
product | Ethyl 2-hexahydropyrrolo[3,4-c]pyrrol-2(1H)-ylpyridine-5-carboxylate hydrochloride | 1.19 g | Cl.C1N(CC2C1CNC2)C2=NC=C(C=C2)C(=O)OCC | InChI=1S/C14H19N3O2.ClH/c1-2-19-14(18)10-3-4-13(16-7-10)17-8-11-5-15-6-12(11)9-17;/h3-4,7,11-12,15H,2,5-6,8-9H2,1H3;1H
